US07244747B2
In a 50 ml three necked flask fitted with a magnetic stirrer, under inert atmosphere, the crude hydroxy-(2-oxo-4-propyl-pyrrolidin-1-yl)-acetic acid ethyl ester a19 (0.901 g, 3.9 mmol) and carbonyl-diimidazole (0.95 g, 5.9 mmol) in MeCN (20 ml) is allowed to react 48 h at room temperature and concentrated in vacuo. The reaction mixture is diluted with HCl (0.1 M) and extracted with CH2Cl2. The aqueous layer is basicified to pH 9 with solid Na2CO3, extracted with CH2Cl2, dried on MgSO4, filtered and concentrated in vacuo. This residue is purified by chromatography on silicagel (CH2Cl2/MeOH/NH4OH: 96/3.6/0.04 (v/v/v)) to give imidazol-1-yl-(2-oxo-4-propyl-pyrrolidin-1-yl)-acetic acid ethyl ester a20 (0.8 g, 82%).

reactant | hydroxy-(2-oxo-4-propyl-pyrrolidin-1-yl)-acetic acid ethyl ester | C(C)OC(C(N1C(CC(C1)CCC)=O)O)=O | C11H19NO4
reactant | carbonyl-diimidazole | 5.9 mmol, 0.95 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | MeCN | 20 ml | CC#N | C2H3N
product | imidazol-1-yl-(2-oxo-4-propyl-pyrrolidin-1-yl)-acetic acid ethyl ester | C(C)OC(C(N1C(CC(C1)CCC)=O)N1C=NC=C1)=O | C14H21N3O3
